US08133909B2
(S)—N-[2-(5-Chloro-pyridin-2-yl)-ethyl]-N-(3,4-dimethyl-phenyl)-2-hydroxy-2-phenyl-acetamide
In analogy to example 25 step 1 and 26 step 1-2, [2-(5-Chloro-pyridin-2-yl)-ethyl]-(3,4-dimethyl-phenyl)-amine obtained by reacting 5-Chloro-2-vinyl-pyridine (CAS: 223445-06-5) with 3,4-dimethylaniline was coupled with (S)-(+)-O-acetyl-L-mandelic acid then hydrolysed to provide the title compound. MS(m/e): 395.1 [M+H]+.

reactant | 5-Chloro-2-vinyl-pyridine | ClC=1C=CC(=NC1)C=C | C7H6ClN
reactant | 3,4-dimethylaniline | CC=1C=C(N)C=CC1C | C8H11N
reactant | (S)-(+)-O-acetyl-L-mandelic acid | C(C)(=O)OC([C@@H](O)C1=CC=CC=C1)=O | C10H10O4
product | (S)—N-[2-(5-Chloro-pyridin-2-yl)-ethyl]-N-(3,4-dimethyl-phenyl)-2-hydroxy-2-phenyl-acetamide | ClC=1C=CC(=NC1)CCN(C([C@H](C1=CC=CC=C1)O)=O)C1=CC(=C(C=C1)C)C | C23H23ClN2O2
